US04727073
A mixture of 3-nitrobenzaldehyde (20 g), acetylacetone (13.25 g), acetic acid (1.58 g), and piperidine (0.45 g) in benzene (20 ml) was refluxed for 1 hour under azeotropic dehydration. To the reaction mixture was added diethyl ether (100 ml). The mixture was washed with water (50 ml) and a saturated aqueous solution of sodium chloride (50 ml) successively, dried over magnesium sulfate, and evaporated in vacuo. The residual substance was recrystallized from ether to afford 1-acetyl-1-(3-nitrobenzyliden)acetone(16.5 g).

reactant | 3-nitrobenzaldehyde | 20 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | acetylacetone | 13.25 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | acetic acid | 1.58 g | C(C)(=O)O | C2H4O2
reactant | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
catalyst | piperidine | 0.45 g | N1CCCCC1 | C5H11N
product | 1-acetyl-1-(3-nitrobenzyliden)acetone | 16.5 g | C(C)(=O)C(C(=O)C)=CC1=CC(=CC=C1)[N+](=O)[O-] | C12H11NO4
